US08445687B2
Synthesis of 2,2,2-trichloro-N-(4-chloro-3-(trifluoromethyl)phenyl)acetamide (Compound 3)
The clear solution of 3-trifluoromethyl-4-chloroaniline (35 g, 0.1789 mol) and pyridine (36 ml, 0.447 mol) in dichloromethane (350 ml) was cooled at 0° C. to −5° C. and a solution of trichloro acetyl chloride (26 ml, 0.2326 mol) in dichloromethane (75 ml) was added drop wise maintaining temperature of the reaction mass below 0° C. The reaction mass was stirred for 1 hour below 0° C. and quenched with water (150 ml) below 5° C. The organic phase was separated and aqueous layer was reextracted with dichloromethane. The combined dichloromethane layer was then washed with water, dried over sodium sulfate and evaporated under vacuum to obtain (55 g) the desired product, i.e., 2,2,2-trichloro-N-(4-chloro-3-(trifluoromethyl)phenyl)acetamide.

reactant | 3-trifluoromethyl-4-chloroaniline | 0.1789 mol, 35 g | FC(C=1C=C(N)C=CC1Cl)(F)F | C7H5ClF3N
reactant | pyridine | 0.447 mol, 36 ml | N1=CC=CC=C1 | C5H5N
reactant | trichloro acetyl chloride | 0.2326 mol, 26 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2,2,2-trichloro-N-(4-chloro-3-(trifluoromethyl)phenyl)acetamide | 55 g | ClC(C(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)(Cl)Cl | C9H4Cl4F3NO
